US07179823B1
Sodium hydride (60%, oily, 170 mg) was added to an N,N-dimethylformamide solution (50 ml) of ethyl 3-(3-phenyl-1H-pyrazole-4-yl)propionate (890 mg) at 0° C., and this mixture was stirred at 0° C. for 30 minutes. 2-[4-(5-Methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethyl methane sulfonate (2.79 g) was added to the reaction mixture, which was stirred at 90° C. for 1 hour. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[1-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethyl]-3-phenyl-1H-pyrazol-4-yl]propionate (1.19 g, yield: 62%) was obtained as colorless crystals. This was recrystallized from ethyl acetate-hexane. Melting point: 81–82° C.

reactant | Sodium hydride | 170 mg | [H-].[Na+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | ethyl 3-(3-phenyl-1H-pyrazole-4-yl)propionate | 890 mg | C1(=CC=CC=C1)C1=NNC=C1CCC(=O)OCC | C14H16N2O2
reactant | 2-[4-(5-Methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethyl methane sulfonate | 2.79 g | CS(=O)(=O)OCCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C20H21NO5S
solvent | water | O | H2O
product | ethyl 3-[1-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethyl]-3-phenyl-1H-pyrazol-4-yl]propionate | 1.19 g, yield: 62% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCN1N=C(C(=C1)CCC(=O)OCC)C1=CC=CC=C1 | C33H33N3O4
